US06239142B1
N-(4-Chlorobenzyl)-7-ethyl-2-iodo-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
Carbonyldiimidazole (0.290 g) is added to a solution of 7-ethyl-2-iodo-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxylic acid (Eur. J. Med. Chem. 1987, 22, 139) (0.520 g) in DMF (13 mL). The reaction is heated to 60° C. and stirred for 18 h. The reaction mixture is cooled to rt, and 4-chlorobenzylamine (0.22 mL) is added. The reaction is stirred at rt for 7 h. The reaction mixture is poured into 20% aqueous HOAc (50 mL), and the resulting off-white solid is filtered off. This material is recrystallized twice from methanol to yield 0.372 g (53%) of the title compound as an off-white, crystalline solid.

reactant | Carbonyldiimidazole | 0.290 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 7-ethyl-2-iodo-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxylic acid | 0.520 g | C(C)N1C2=C(C(C(=C1)C(=O)O)=O)C=C(S2)I | C10H8INO3S
reactant | 4-chlorobenzylamine | 0.22 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | HOAc | 50 mL | CC(=O)O | C2H4O2
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-7-ethyl-2-iodo-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.372 g, 53% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CC)SC(=C3)I)=O)C=C1 | C17H14ClIN2O2S
